US07435837B2
Treatment of 2,4,6-trichlorobromobenzene (14.5 g, 55.69 mmol) with 2-methoxybenzeneboronic acid (12.69 g, 83.54 mol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.656 g, 0.835 mmol), and potassium carbonate (19.21 g, 139.22 mmol) generally according to the procedure described for Intermediate 37 provided 9.8 g (61%) of 2′4′,6′-trichloro-1,1′-biphenyl-2-yl methyl ether. To a solution of 2′ 4′,6′-trichloro-1,1′-biphenyl-2-yl methyl ether (9.8 g, 34.08 mmol) in dichloromethane (100 mL) cooled to −78° C. was added boron tribromide (9.38 g, 1.0 M in dichloromethane) generally according to the procedure described for Intermediate 163 provided 9.2 g of 2′,4′,6′-trichlorobiphenyl-2-ol as a yellow solid. Treatment of 2′,4′,6′-trichloro-1,1′-biphenyl-2-ol (9.17 g, 33.52 mmol) with potassium carbonate (18.53 g, 134.1 mmol) and allyl bromide (4.46 g, 36.87 mol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 3-allyl-2′,4′,6′-trichloro-1,1′-biphenyl-2-ol. Treatment of 3-allyl-2′,4′,6′-trichloro-1,1′-biphenyl-2-ol. (10.35 g, 33.00 mmol) with 3-chloroperoxybenzoic acid (17.08 g, 99.00 mmol, 77%) followed by potassium carbonate (11.40 g, 82.51 mmol) generally according to the procedure described for Intermediate 9 afforded 10.4 g (95%) of (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol. Treatment of (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol (10.38 g, 31.49 mmol) with p-toluenesulfonyl chloride (7.20 g, 37.79 mol) generally according to the procedure described for Intermediate 10 gave 10.5 g (68%) of (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Treatment of (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.38 g, 2.85 mmol) with sodium azide (0.74 g, 11.4 mmol) generally according to the procedure described for Intermediate 98 afforded 0.93 g, (92%) of (±)-2-(azidomethyl)-7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran. To a solution of (±)-2-(azidomethyl)-7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran in tetrahydrofuran (75 mL) was added polymer-supported triphenylphosphine (1.36 g, 5.24 mmol) and the reaction was allowed to stir at room temperature 12 h. The reaction mixture was filtered (celite) and the solvent removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, 10% aqueous ammonium hydroxide in methanol:ethyl acetate 1:9) provided a colorless oil. The oil was re-dissolved in isopropanol (2 mL) and hydrogen chloride (6 mL, 1.0 M in diethyl ether) was added. The resulting precipitate was filtered, washed (diethyl ether), and dried to give 0.53 g (56%) of (±)-{[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine as a white solid, hydrochloride salt. mp >225° C.

reactant | (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 31.49 mmol, 10.38 g | ClC1=C(C(=CC(=C1)Cl)Cl)C1=CC=CC=2CC(OC21)CO | C15H11Cl3O2
reactant | p-toluenesulfonyl chloride | 37.79 mol, 7.20 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 10.5 g, 68% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2Cl)Cl)Cl | C22H17Cl3O4S
